US07157456B2
5-Chloro-N-({2-oxo-3-[4-(1-pyrrolidinyl)phenyl]-1,3-oxazolidin-5-yl}methyl)-2-thiophenecarboxamide
780 mg (1.54 mmol) of tert-butyl 1-{4-[5-({[(5-chloro-2-thienyl)carbonyl]amino}-methyl)-2-oxo-1,3-oxazolidin-3-yl]phenyl}prolinate are dissolved in 6 ml of dichloromethane and 9 ml of trifluoroacetic acid, and the mixture is stirred at 40° C. for two days. The reaction mixture is then concentrated and stirred with ether and 2N aqueous sodium hydroxide solution. The aqueous phase is concentrated and stirred with ether and 2N hydrochloric acid. The organic phase of this extraction is dried over MgSO4, filtered and concentrated. The crude product is chromatographed over silica gel (CH2Cl2/EtOH/conc. aqu. NH3 sol.=100/1/0.1 to 20/1/0.1). This gives 280 mg (40% of theory) of the product.

reactant | tert-butyl 1-{4-[5-({[(5-chloro-2-thienyl)carbonyl]amino}-methyl)-2-oxo-1,3-oxazolidin-3-yl]phenyl}prolinate | 1.54 mmol, 780 mg | ClC1=CC=C(S1)C(=O)NCC1CN(C(O1)=O)C1=CC=C(C=C1)N1[C@H](C(=O)OC(C)(C)C)CCC1 | C24H28ClN3O5S
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 9 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 5-Chloro-N-({2-oxo-3-[4-(1-pyrrolidinyl)phenyl]-1,3-oxazolidin-5-yl}methyl)-2-thiophenecarboxamide | ClC1=CC=C(S1)C(=O)NCC1CN(C(O1)=O)C1=CC=C(C=C1)N1CCCC1 | C19H20ClN3O3S
